US04337256
1-Cyclohexyl-5-hydroxymethylisoquinoline and phosphorus oxychloride were reacted in the same way as in step (g) of Example 13 to afford 1-cyclohexyl-5-chloromethylisoquinoline having a melting point of 88.4° to 89.4° C.

reactant | 1-Cyclohexyl-5-hydroxymethylisoquinoline | C1(CCCCC1)C1=NC=CC2=C(C=CC=C12)CO | C16H19NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-cyclohexyl-5-chloromethylisoquinoline | C1(CCCCC1)C1=NC=CC2=C(C=CC=C12)CCl | C16H18ClN
